US07790720B2
14.3 Synthesis of 1-[(5-bromo-2-{4-[3-(2-methylpyrrolidin-1-yl)propoxy]phenyl}-1,3-oxazol-4-yl)methyl]piperidine 117
A solution of 1-[(5-bromo-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl)methyl]piperidine i90 (0.39 g, 0.94 mmol, 1 eq) and 2-metlhylpyrrolidine (192 μl, 1.89 mmol, 2 eq) in acetonitrile (6 ml) is treated with sodium iodide (14 mg, 0.09 mmol, 0.1 eq) and stirred for 24 h at 90° C. 2-Methylpyrrolidine (100 μl, 1 mmol) is then added and the mixture is stirred for a further 24 h at 90° C. The mixture is then poured into 0.1 N hydrochloric acid (10 ml) and extracted with diethyl ether (10 ml). The aqueous phase is then treated with 1 N sodium hydroxide to reach pH 10 and extracted with dichloromethane (3×10 ml). The combined dichloromethane extracts are then dried over magnesium sulfate and concentrated to yield 370 mg of an orange oil which is purified by chromatography over silicagel (eluent: dichloromethane/methanol/ammonia 96:3.6:0.4) to yield 86 mg of 1-[(5-bromo-2-{4-[3-(2-methylpyrrolidin-1-yl)propoxy]phenyl}-1,3-oxazol-4-yl)methyl]piperidine 117.

reactant | 1-[(5-bromo-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl)methyl]piperidine | BrC1=C(N=C(O1)C1=CC=C(C=C1)OCCCCl)CN1CCCCC1 | C18H22BrClN2O2
reactant | sodium iodide | 0.09 mmol, 14 mg, 0.1 eq | [I-].[Na+]
reactant | 2-Methylpyrrolidine | 1 mmol, 100 μl | CC1NCCC1 | C5H11N
reactant | hydrochloric acid | 0.1 N, 10 ml | Cl | ClH
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 1-[(5-bromo-2-{4-[3-(2-methylpyrrolidin-1-yl)propoxy]phenyl}-1,3-oxazol-4-yl)methyl]piperidine | 370 mg, Yield: 20% | BrC1=C(N=C(O1)C1=CC=C(C=C1)OCCCN1C(CCC1)C)CN1CCCCC1 | C23H32BrN3O2
